US07687491B2
(7c) 4-{[t-Butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzofuran-2-carbonitrile
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1c) using 4-{[t-butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzofuran-2-carboxaldehyde (4.3 g, 15.3 mmol) that was obtained in Example 7 (7b), hydroxylamine hydrochloride (1.2 g, 17 mmol), triethylamine (4.3 ml, 31 mmol), and N,N′-dicyclohexylcarbodiimide (3.5 g, 17 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:9) as the eluent to afford the title compound (3.0 g) in a yield of 71% as a colourless oily product.

reactant | 4-{[t-butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzofuran-2-carboxaldehyde | 15.3 mmol, 4.3 g | [Si](C)(C)(C(C)(C)C)OC1CCCC2=C1C=C(O2)C=O | C15H24O3Si
reactant | hydroxylamine hydrochloride | 17 mmol, 1.2 g | Cl.NO
reactant | triethylamine | 31 mmol, 4.3 ml | C(C)N(CC)CC | C6H15N
reactant | N,N′-dicyclohexylcarbodiimide | 17 mmol, 3.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 4-{[t-Butyl(dimethyl)silyl]oxy}-4,5,6,7-tetrahydro-1-benzofuran-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1CCCC2=C1C=C(O2)C#N | C15H23NO2Si
